US08357634B2
A mixture of 4-chlorophenol (0.2 g, 0.86 mmol) in DMF (2 ml), cesium carbonate (0.7 g, 1.14 mmol), N,N-dimethylglycine (0.01 g, 0.057 mmol), 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [1-(3-iodo-phenyl)-ethyl]methoxy-amide (0.25 g, 0.57 mmol), prepared as described in example P2, and Cul (0.09 g, 0.024 mmol) was subjected to microwave irradiation at 90° C. for 20 minutes. Reaction mass was diluted with water and extracted with ethyl acetate (3×60 ml), washed with water, brine and dried over anhydrous sodium sulfate. The crude mass was purified by chromatography to yield 0.057 g (28% of theory) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[3-(4-chloro-phenoxy)-phenyl]-ethyl}-methoxy-amide in form of a resin.

reactant | 4-chlorophenol | 0.86 mmol, 0.2 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | cesium carbonate | 1.14 mmol, 0.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylglycine | 0.057 mmol, 0.01 g | CN(CC(=O)O)C | C4H9NO2
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid [1-(3-iodo-phenyl)-ethyl]methoxy-amide | 0.57 mmol, 0.25 g | IC=1C=C(C=CC1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)F)OC | C15H16F2IN3O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[3-(4-chloro-phenoxy)-phenyl]-ethyl}-methoxy-amide | 0.057 g, 28% | ClC1=CC=C(OC=2C=C(C=CC2)C(C)N(C(=O)C=2C(=NN(C2)C)C(F)F)OC)C=C1 | C21H20ClF2N3O3
